US06730803B2
Optically active methyl 4-cyano-3-hydroxy-4-methylpentanoate (2 g, 11.7 mmol) was dissolved in THF (10 mL) and methanol (5 mL) was added. An aqueous sodium borohydride (885 mg, 23.4 mmol) solution (5 mL) was dropwise added at room temperature. The mixture was stirred at room temperature for 3 hr and then 2N aqueous hydrochloric acid solution (15 mL) was dropwise added at 0° C. Ethyl acetate (20 mL) was added and the mixture was stirred vigorously. An organic layer was extracted. Ethyl acetate (20 mL) was further added to the aqueous layer and the mixture was stirred vigorously. The organic layer was extracted again. This step was repeated three times and the obtained organic layer was dried over anhydrous magnesium sulfate (2 g) and concentrated under reduced pressure to give optically active 4-cyano-4-methyl-3-hydroxy-1-pentanol (1.12 g, 7.84 mmol) (yield relative to optically active methyl 4-cyano-3-hydroxy-4-methylpentanoate: 67%).

reactant | methyl 4-cyano-3-hydroxy-4-methylpentanoate | 11.7 mmol, 2 g | C(#N)C(C(CC(=O)OC)O)(C)C | C8H13NO3
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium borohydride | 23.4 mmol, 885 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2N, 15 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-cyano-4-methyl-3-hydroxy-1-pentanol | 7.84 mmol, 1.12 g | C(#N)C(C(CCO)O)(C)C | C7H13NO2
